US06462036B1
A mixture of 3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenol (0.29 g), ethylene carbonate (0.11 g), a trace of solid sodium hydroxide (spatula tip of 20-40 mesh beads) and dry dimethylformamide (3 ml) was stirred under nitrogen and heated at 100° C. for 45 minutes. The external temperature was raised to 140° C. and the mixture heated at this temperature for 3.5 hours. The reaction mixture was cooled and diluted with ethyl acetate and the mixture washed with dilute aqueous sodium hydroxide solution and then with water. The organic phase was dried, filtered and evaporated to give a residue which was purified by flash column chromatography on silica using ethyl acetate as the mobile phase. Appropriate fractions were collected, combined and evaporated to give a solid with was triturated with diethyl ether and filtered to give 2-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]ethanol, m.p. 203-205° C.

reactant | 3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenol | 0.29 g | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(C=CC2)O | C16H12N2O
reactant | ethylene carbonate | 0.11 g | C1(OCCO1)=O | C3H4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]ethanol | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(OCCO)C=CC2 | C18H16N2O2
